US08871766B2
C) 4-(4-cyanobenzyl)-4-hydroxypiperidine hydrochloride
To a solution of tert-butyl 4-(4-cyanobenzyl)-4-hydroxypiperidine-1-carboxylate (19 g) in 1,4-dioxane (50 mL) was added 4.0 M HCl/1,4-dioxane solution (76 mL) at 0° C., and the mixture was stirred at room temperature for 10 hr. The resulting solid was collected by filtration, washed with ethyl acetate (100 mL) and diethyl ether (200 mL), and dried under reduced pressure to give the title compound (9.3 g).

reactant | tert-butyl 4-(4-cyanobenzyl)-4-hydroxypiperidine-1-carboxylate | 19 g | C(#N)C1=CC=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C18H24N2O3
reactant | HCl 1,4-dioxane | 4.0 M, 76 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-(4-cyanobenzyl)-4-hydroxypiperidine hydrochloride | 9.3 g | Cl.C(#N)C1=CC=C(CC2(CCNCC2)O)C=C1 | InChI=1S/C13H16N2O.ClH/c14-10-12-3-1-11(2-4-12)9-13(16)5-7-15-8-6-13;/h1-4,15-16H,5-9H2;1H
